US05654307
A stirred suspension of 5-[N-(tert-butoxycarbonyl)amino]-2-chloropyridine-4-carboxylic acid (1.91 g, 7 mmol) in CH2Cl2 (200 mL) is treated slowly with trifluoroacetic acid until homogeneous (ca. 12 mL). The solution is stirred overnight and extracted with dilute NH4OH, and the aqueous layer is then acidified with dilute HCl to gave a precipitate of 5-amino-2-chloropyridine-4-carboxylic acid (1.05 g, 87% yield). 1H NMR (DMSO) δ 9.01 (2H, m), 8.03 (1H, s), 7.48 (1H, s).

reactant | 5-[N-(tert-butoxycarbonyl)amino]-2-chloropyridine-4-carboxylic acid | 7 mmol, 1.91 g | C(C)(C)(C)OC(=O)NC=1C(=CC(=NC1)Cl)C(=O)O | C11H13ClN2O4
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
product | 5-amino-2-chloropyridine-4-carboxylic acid | 1.05 g, 87% yield | NC=1C(=CC(=NC1)Cl)C(=O)O | C6H5ClN2O2
